* SIMPLIS transient companion netlist for the Buck PID Auto-Tuner
* The paired visual schematic is synchronous_buck.sxsch. This deck is the
* automation source patched by simplis_backend.py before each iteration.
* It intentionally mirrors the PLECS/LTspice example parameter names.

.SIMULATOR SIMPLIS
.VAR Vdc=12
.VAR Vout=5
.VAR fsw=250k
.VAR Ts={1/fsw}
.VAR dead=20n
.VAR dead_frac={dead/Ts}
.VAR Lval=30u
.VAR Rl=50m
.VAR Cout=15u
.VAR Rc=7.5m
.VAR Rload=5
.VAR Kp=0.166507
.VAR Ki=1419.38
.VAR Kd=1.586e-6
.VAR Kf=156357
.VAR tstop=3e-3
.VAR load_freq=250
.VAR load_duty=0.25
.VAR load_delay=1e-3
.OPTIONS PSP_NPT=3001 PSP_START=0 PSP_END={tstop}

* SIMPLIS external netlists require numeric node names. The visual schematic
* uses friendly net names; this deck maps the output node back to VOUT for
* exported vector names.
* 0 = ground, 1 = input rail, 2 = switching node, 3 = VOUT, 4 = capacitor node,
* 5 = inductor DCR junction, 10..17 = controller/ramp nodes, 40..41 = load step.
.NODE_MAP VOUT 3
.NODE_MAP CTRL 16
.NODE_MAP RAMP 17

VDC 1 0 DC {Vdc}

* Synchronous power stage. The VCSW comparators implement the same PWM logic as
* the LTspice companion deck:
*   high side on when CTRL > RAMP + dead/Ts
*   low side on when RAMP > CTRL + dead/Ts
S_HI 1 2 16 17 swhi IC=CLOSE
S_LO 2 0 17 16 swlo IC=OPEN
!R$D_HI 2 1 body_diode IC=1
!R$D_LO 0 2 body_diode IC=1
L1 2 5 {Lval} IC={Vout/Rload}
R_L 5 3 {Rl}
R_ESR 4 3 {Rc}
COUT 4 0 {Cout} IC={Vout}
RLOAD 3 0 {Rload}
S_LOAD 3 41 40 0 loadsw IC=OPEN
RSTEP 41 0 {Rload}
VLOADCTL 40 0 PUL V1=0 V2=1 FREQ={load_freq} DRATIO={load_duty} DELAY={load_delay} OFF_UNTIL_DELAY=YES

* Parallel PID controller:
*   err  = Vout_ref - Vout
*   int' = Ki*err
*   ef'  = Kf*(err - ef)
*   ctrl = Kp*err + int + Kd*Kf*(err - ef)
VREF 10 0 DC {Vout}
EERR 11 0 10 3 1
CINT 12 0 1 IC={Vout/Vdc}
RINT 12 0 1G
GINT 0 12 11 0 {Ki}
CEF 13 0 1 IC=0
REF 13 0 1G
GEF 0 13 11 13 {Kf}
E_KP 14 0 11 0 {Kp}
E_INT 15 14 12 0 1
E_DER 16 15 11 13 {Kd*Kf}
RCTRL 16 0 1G
VRAMP 17 0 SAW V1=0 V2=1 FREQ={fsw} DELAY=0 OFF_UNTIL_DELAY=NO

.MODEL swhi VCSW RON=5m ROFF=20Meg TH={dead_frac} HYSTWD=1m LOGIC=POS
.MODEL swlo VCSW RON=5m ROFF=20Meg TH={dead_frac} HYSTWD=1m LOGIC=POS
.MODEL loadsw VCSW RON=1m ROFF=1G TH=0.5 HYSTWD=0.1 LOGIC=POS
.MODEL body_diode VPWLR NSEG=4 X0=-100 Y0=-1n X1=0 Y1=0 X2=0.7 Y2=0 X3=0.8 Y3=50 X4=100 Y4=1e6

.PRINT V(#VOUT)
.PRINT I(L1)
.TRAN {tstop} 0
.END
